US04226878
Method C: 3-[p-(1-Imidazolyl)phenyl]propionitrile
A mixture of 2.8 g of imidazole, 7.6 g of 3-(p-bromophenyl)propionitrile, 4.7 g of anhydrous potassium carbonate, and 0.4 g of cuprous bromide in 15 ml of nitrobenzene was heated at 160° C. for 25 hours under stirring.

reactant | imidazole | 2.8 g | N1C=NC=C1 | C3H4N2
reactant | 3-(p-bromophenyl)propionitrile | 7.6 g | BrC1=CC=C(C=C1)CCC#N | C9H8BrN
reactant | potassium carbonate | 4.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | nitrobenzene | 15 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-[p-(1-Imidazolyl)phenyl]propionitrile | N1(C=NC=C1)C1=CC=C(C=C1)CCC#N | C12H11N3
